### PR TITLE
add intrN

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

I regularly forget that this is achieved by `mulrNz`.
Since there is `intrD` and `intrM`, we could also have `intrN`.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/algebra/ssrint.v [hunk 1]
```diff
@@ -680,6 +680,8 @@ Proof. by rewrite mulNrz mulrNz opprK. Qed.
 Lemma mulrbz x (b : bool) : x *~ b = (if b then x else 0).
 Proof. by case: b. Qed.
 
+Lemma intrN n : (- n)%:~R = - n%:~R :> R. Proof. by rewrite mulrNz. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssrint.v:683]: Nitpicking
```suggestion
Lemma intrN n : (- n)%:~R = - n%:~R :> R. Proof. exact: mulrNz. Qed.
```

**Review by proux01 — COMMENTED** [review]
Why not add `intrB` while at it?

**Comment by CohenCyril** [comment]
Actually, this is achieved by `morphN`
